US08975254B2
e) (R)—N-(1-(3-(4-cyano-3-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(pyridin-4-yl)-1H-pyrazole-5-carboxamide
The title compound was synthesized from 5-pyridin-4-yl-4H-pyrazole-3-carboxylic acid (13 mg, 0.069 mmol) and (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-methylbenzonitrile (17 mg, 0.071 mmol) using the method of Example 34(d). Crude product was purified by chromatography (CombiFlash, silica column, eluent: 0-20% MeOH/DCM) to obtain 19 mg (67%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.17 (d, 3H), 2.48 (s, 3H), 4.31 (m, 2H), 4.47 (m, 1H), 6.82 (d, 1H), 7.31 (s, 1H), 7.75 (m, 4H), 7.81 (d, 1H), 7.85 (s, 1H), 8.40 (d, 1H), 8.63 (m, 2H), 13.92 (br s, 1H).

reactant | 5-pyridin-4-yl-4H-pyrazole-3-carboxylic acid | 0.069 mmol, 13 mg | N1=CC=C(C=C1)C=1CC(=NN1)C(=O)O | C9H7N3O2
reactant | (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-methylbenzonitrile | 0.071 mmol, 17 mg | N[C@@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)C)C | C14H16N4
product | (R)—N-(1-(3-(4-cyano-3-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(pyridin-4-yl)-1H-pyrazole-5-carboxamide | 19 mg, 67% | C(#N)C1=C(C=C(C=C1)C1=NN(C=C1)C[C@@H](C)NC(=O)C1=CC(=NN1)C1=CC=NC=C1)C | C23H21N7O
